US06689806B1
2-Oxindole was condensed with 4-hydroxy-6,4′-dimethoxybiphenyl-3-carbaldehyde using method B to give a mixture of isomers of 3-(4-hydroxy-6,4′-dimethoxybiphenyl-3-ylmethylene)-1,3-dihydroindol-2-one, followed by reduction using method E to give 4.5 mg (75%) of 3-(4-hydroxy-6,4′-dimethoxybiphenyl-3-ylmethyl)-1,3-dihydroindol-2-one as a white solid.

reactant | 2-Oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 4-hydroxy-6,4′-dimethoxybiphenyl-3-carbaldehyde | OC1=C(C=C(C(=C1)OC)C1=CC=C(C=C1)OC)C=O | C15H14O4
reactant | 3-(4-hydroxy-6,4′-dimethoxybiphenyl-3-ylmethylene)-1,3-dihydroindol-2-one | OC1=C(C=C(C(=C1)OC)C1=CC=C(C=C1)OC)C=C1C(NC2=CC=CC=C12)=O | C23H19NO4
product | 3-(4-hydroxy-6,4′-dimethoxybiphenyl-3-ylmethyl)-1,3-dihydroindol-2-one | 4.5 mg, 75% | OC1=C(C=C(C(=C1)OC)C1=CC=C(C=C1)OC)CC1C(NC2=CC=CC=C12)=O | C23H21NO4
